US07884123B2
1 g (3.94 mmol) of 3,5-dibromo-1H-pyrazole-4-carboxaldehyde, 1.5 cm3 (16 mmol) of ethyl vinyl ether and 3 drops of 12N concentrated hydrochloric acid are introduced with stirring into 30 cm3 of toluene at a temperature in the region of 20° C. The reaction mixture is stirred for 15 hours at a temperature in the region of 20° C., 1.5 cm3 (16 mmol) of ethyl vinyl ether are then run in and stirring is continued for 15 hours at a temperature in the region of 20° C. The reaction mixture is then diluted with 20 cm3 of toluene and washed with twice 30 cm3 of saturated sodium hydrogen carbonate solution. The organic phase is dried over magnesium sulfate and concentrated to dryness under reduced pressure (2.7 kPa) to give 1.19 g of 3,5-dibromo-1-(1-ethoxyethyl)-1H-pyrazole-4-carboxaldehyde in the form of a yellow oil. 1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 1.10 (t, J=7.5 Hz: 3H); 1.64 (d, J=6.5 Hz: 3H); 3.31 (mt: 1H); 3.51 (mt: 1H); 5.88 (q, J=6.5 Hz: 1H); 9.73 (s: 1H).

reactant | 3,5-dibromo-1H-pyrazole-4-carboxaldehyde | 3.94 mmol, 1 g | BrC1=NNC(=C1C=O)Br | C4H2Br2N2O
reactant | ethyl vinyl ether | 16 mmol, 1.5 cm3 | C(=C)OCC | C4H8O
reactant | ethyl vinyl ether | 16 mmol, 1.5 cm3 | C(=C)OCC | C4H8O
catalyst | hydrochloric acid | 12N, 3 drops | Cl | ClH
solvent | toluene | 20 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3,5-dibromo-1-(1-ethoxyethyl)-1H-pyrazole-4-carboxaldehyde | 1.19 g | BrC1=NN(C(=C1C=O)Br)C(C)OCC | C8H10Br2N2O2
